US04431662
A mixture of 3,4-(methylenedioxy)aniline (200 g, 1.46 mole) and γ-butyrolactone (225 ml) was heated (in a dry nitrogen atmosphere) with stirring in a 200° oil bath for 2 days. Product was isolated from the reaction mixture by distillation under reduced pressure (b.p. 156°, 33 μ). Product was filtered over Silica Gel 60 (Trade Name) eluting with ethylacetate. The eluant was concentrated and the crystalline product was collected and washed with ether and petroleum ether affording 1-(1,3-benzodioxol-5-yl)-2-pyrrolidinone (153.4 g; 51%), m.p. 89°-91° which was one spot on tlc analysis.

reactant | 3,4-(methylenedioxy)aniline | 1.46 mole, 200 g | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | γ-butyrolactone | 225 ml | C1(CCCO1)=O | C4H6O2
product | 1-(1,3-benzodioxol-5-yl)-2-pyrrolidinone | 153.4 g, 51% | O1COC2=C1C=CC(=C2)N2C(CCC2)=O | C11H11NO3
